US04072710
To a solution of phenylmalonic trimethylsilyl ester prepared with 0.1 mole of the acid (18.0) and bisilylacetamide in chlorobenzene (100 ml), there is added thionyl chloride (10 ml) with stirring being maintained at room temperature (20°) for 60 minutes. Thereafter the mixture is distilled at ordinary pressure to draw off trimethylchlorosilane (13.0 ml) and the resulting solution gives trimethylsilyl alpha-chlorocarbonyl-phenylacetate. Thereafter phenol (15.0 g) is added and stirring is continued at 45° C for 8 hours. The mixture is then washed with water and the pH is adjusted to 7.0 with sodium bicarbonate solution. The water phase is decanted off and the pH is adjusted to 5.0 with hydrochloric acid. The phenylmalonic acid phenyl monoester precipitates out, yield 95%, m.p. 105°-110°(d) and when recrystallised from benzene-n-hexane, has m.p. 116°-118° (d).

reactant | phenylmalonic trimethylsilyl ester | C[Si](C)(C)OC(C(C(=O)O)C1=CC=CC=C1)=O | C12H16O4Si
reactant | bisilylacetamide | CC(=O)N([SiH3])[SiH3] | C2H9NOSi2
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chlorobenzene | 100 ml | ClC1=CC=CC=C1 | C6H5Cl
product | trimethylsilyl alpha-chlorocarbonyl-phenylacetate | ClC(=O)C(C(=O)O[Si](C)(C)C)C1=CC=CC=C1 | C12H15ClO3Si
